US07939666B2
Stage 2: 3-(2-Bromo-ethyl)-phenylamine
A solution of 2-(3-Amino-phenyl)-ethanol (2.0 g) in 48% aq HBr (20 ml) was heated at 90° C. for 18 h. The mixture was cooled to room temperature, and the precipitate formed was collected by filtration. The solid was dried in vacuo yielding Building block M, 1.8 g (61% yield). LCMS purity 90%, m/z 200/202 [M+H]+.

reactant | 2-(3-Amino-phenyl)-ethanol | 2.0 g | NC=1C=C(C=CC1)CCO | C8H11NO
reactant | HBr | 20 ml | Br | BrH
product | 3-(2-Bromo-ethyl)-phenylamine | 61% yield | BrCCC=1C=C(C=CC1)N | C8H10BrN
